Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel unsafe in the community, M'am."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with history of paranoid schizophrenia and BPAD and 
numerous hospitalizations in ___ (not including ___ 
presenting with complaint of feeling "unsafe." Patient was very 
guarded durng the interview and offered limited information in 
regard to his history and current presentation. Pt
stated tha he does not sleep, unable to elaborate on the reasons 
for insomnia. Reported his energy to be fair. In response to the 
mood questions he stated that he "can't describe my mood, m'am".

In regard to his paranoia, pt stated that he feels "unsafe, at 
least that's my perception of things". Patient denied auditory 
or visual hallucinations now or in the past. He denies SI/HI. Pt 
reported that he presented similary in ___ but 
denied that he was hospitalized. He reported that he was taking 
medications"whatever they gave me". Pt identified myself to be 
his psychiatrist and denied seeing provider in the community. 

ROS:
- Depression: denies all depresive symptoms except insomnia
- Mania: Endorses decreased sleep but denies sustained increases 
in energy 
- Psychosis: patient is paranoid, denies auditory hallucinations 
(past or present),no visual hallucinations 
- Behavior: denies low frustration tolerance, aggression, 
emotional dysregulation, impulsivity 

ED COURSE: No physical/chemical restraints required. Patient 
came voluntarily and amenable to speaking to psychiatry.  
 
Past Medical History:
Psychiatric History: 
Patient claims to have ~75 hospitalizations in the last ___ 
years. First hospitalization was involuntary admission that 
occurred ___ years ago at the ___ 
___). Last hospitalized at ___ last year.
Previous diagnoses: Schizophrenia, paranoid type, chronic vs. 
schizoaffective disorder
Past psychiatric hospitalizations: hospitalization at ___ 
___ (___), ___ (___)  
-he has been on Risperdal Consta and haldol decanoate in the 
past
-denies having a guardian
History of suicide attempts, self-injurious behavior, or 
assaultive behavior: Denies
Current outpatient therapist: None currently
Current outpatient prescriber: None currently
.
Past Medical History:  Patient denies but per medical record
-Reported Hypertension
-h/o Rhabdomyolysis 
-Reported Tardive dyskinesia
.
Substance Abuse History:
-EtOH: Denies
-Tobacco: Denies
-MJ/LSD/Ecstasy/Mushrooms: Denies
-Cocaine/Crack/Amphetamines: Denies
-Opiates: Denies, no IVDU
-Benzos: Denies
 
Social History:
___
Family History:
History of suicidality or suicide attempts: Denies
History of diagnosed psychiatric/substance abuse disorders: 
Denies 
History of inpatient psychiatric hospitalizations: Denies

 
Physical Exam:
VS:  Pt refused vitals on admission 
Vitals from ED eval: T98 P70 BP113/71 R18 Sat100% ra 

 
MENTAL STATUS EXAM:
--appearance: fair grooming with poor eye contact
--behavior/attitude:  guarded withdrawn; exhibited no PMR, PMA
--speech: fluent, normal rate
--mood (in patient's words): "I can't describe my mood" 
--affect: constricted affect; appropriate to the context
--thought content (describe): preoccupied with saying that he is 
safe here and not wanting to discuss what happened "in the 
community". 
--thought process: linear 
--perception: significant for likely delusions and paranoia 
about people making threats towards him, denies AH/VH
--SI/HI: without SI; no HI; 
--insight: limited/poor
--judgment: fair 
 
COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: able to recite MOYB
--memory (ball, chair, purple): ___ reg, ___ recall with help
--calculations: quarters in $2.25 = 9
--language: grossly intact
--fund of knowledge: knows ___'s wife is ___, knows 
___ is front runner in ___ race 
--proverbs: provided accurate interpretations of "rolling stone 
gathers no moss" means "don't stop"
--similarities/analogies: understood analogy of "apples to 
oranges"

PE:
General: Well-nourished, in no distress.
HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal 
pulses
Abdomen: pt unwilling to relax stomach muscles but nontender, 
nondistended; no masses or organomegaly.
Extremities: No clubbing, cyanosis, or edema
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Pupils equally round and reactive to light 
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally 
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal 
movements, tremors. Strength full power ___ throughout No gross 
focal motor or sensory deficits, normal gait
  *Sensation- Intact to light touch  
 
Pertinent Results:
___ 12:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___:25PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 12:25PM URINE  RBC-<1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 12:25PM URINE  MUCOUS-RARE
___ 10:00AM   GLUCOSE-140* UREA N-12 CREAT-1.1 SODIUM-140 
POTASSIUM-3.2* CHLORIDE-101 TOTAL CO2-28 ANION GAP-14
___ 10:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:00AM   WBC-5.2 RBC-4.94 HGB-14.4 HCT-45.3 MCV-92 
MCH-29.1 MCHC-31.7 RDW-13.0
___ 10:00AM   NEUTS-67.6 ___ MONOS-3.1 EOS-1.5 
BASOS-0.8
___ 10:00AM   PLT COUNT-249
 
Brief Hospital Course:
Legal: ___
Psychiatric: On admission, patient demonstrated significant 
paranoia with reports of someone being after him and feeling 
“unsafe out there.” He was notably flat, withdrawn, and 
extremely guarded. He made extremely poor eye contact and 
demonstrated severely delayed speech with appearance of internal 
preoccupation (though patient denied any AVH/CAH). Given 
previous response to risperidone, with family report that 
patient has a history of cheeking medications, patient was 
started on risperidone disintegrating tablets 1 mg PO bid. This 
was quickly uptitrated to 3 mg PO bid, as he was previously 
noted to respond well to this dose. Patient was also started on 
lorazepam 1 mg PO bid given his severe paranoia and concerns for 
mild catatonia. With initiation of medications, patient was 
noted to become significantly more engaged. He had improved eye 
contact, and became more conversant with the primary team. He 
also became increasingly less paranoid over the course of his 
brief hospital stay, leading him to state consistently his 
readiness for discharge home. 
 
Due to his known medication non-adherence, with prior history of 
having received injectable medications, re-initiation of IM 
medications was discussed at patient with length. He initially 
was amenable to Invega Sustenna, which was recommended due to 
his extremely poor history of follow up. Patient subsequently 
retracted his consent, insisting on Risperdal Consta, stating 
repeatedly that “Risperidal is my medication.” At his 
insistence, patient ultimately received Risperdal Consta 25 mg 
IM x1 on ___ (next due ___ without event. Consistent with 
previous admissions, he reported repeatedly that he would follow 
up with ___ for his biweekly injections, 
though patient has demonstrated repeatedly that he does not 
follow up with any discharge plans, including medications, after 
hospital discharge. Phone call to ___ prior to discharge also 
revealed that patient has not been seen at ___ since ___, and 
the ___ floor clinic is only available by appointment 
for patients with an established ___ PCP (which patient does not 
have). Patient repeatedly declined referrals for PCP, case 
management, and psychiatric follow up. He also repeatedly 
declined referrals for home nursing or ___ services, stating 
repeatedly, “I’m a hermit. I ___ need any of that.”
 
At time of discharge, patient was provided with a one-month 
prescription for Risperdal 3 mg bid.  He was offered home 
delivery of these medications, which he declined. Patient was 
informed of his inability to follow up at ___, but he again 
declined referrals of any kind. Per discussion with attending 
Dr. ___ agreed to return to the emergency room if 
feeling unsafe in any way. Patient further agreed to continued 
IM medications and referrals for follow up the next time he is 
admitted to ___.
 
Medical: Consistent with previous admissions, patient refused 
all vital signs during his hospital stay. As a result, patient’s 
reported history of hypertension could neither be confirmed or 
monitored. There were no acute medical issues. Patient declined 
referral to primary care.
 
Social/Milieu: Consistent with previous admissions, patient 
remained quiet and generally isolative while admitted. He met 
with his treatment team daily, though declined participation in 
any groups. He was paranoid on admission, but this was noted to 
decrease over the course of his hospital stay. Patient was 
polite with staff (frequently answering questions with “yes, 
m’am/no, ma’am” or “yes, sir/no, sir). He was monitored on q15 
minute checks without incident, and with no need for chemical or 
physical restraint.
 
Risk Assessment: No evidence of an acute safety risk at this 
time. Due to his limited insight into his illness, patient does 
have the chronic risk of treatment non-adherence. We attempted 
to decrease this risk with long-acting injectable medications, 
which was started this admission, though patient is declining 
follow up at this time. He also declines referrals to any 
medical or mental health providers. Future medication 
non-adherence is expected, and there is no evidence for 
suicidality, homicidality, aggressive, or unsafe behavior at 
this time.

 
Medications on Admission:
denies
 
Discharge Medications:
1. risperidone 3 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*0*
 
NOTE: Received Risperdal Consta 25 mg IM x1 on ___. Next due 
___ though patient declining follow up. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I: paranoid schizophrenia
AXIS II: deferred
AXIS III: h/o hypertension

 
Discharge Condition:
Mental Status: Quiet, cooperative, less paranoid, concrete.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way.
-It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___